US07163937B2
Preparation H10, Step 1: 5-Phenylnicotinic acid (50 mg) was dissolved in dichloroethane (2 ml) prior to the addition of 77% mCPBA (250 mg). The reaction was stirred for 15 h and then it was concentrated, filtered, and purified by reverse phase HPLC (gradient elution, water/acetonitrile/TFA) to afford 5-phenylnicotinic acid N-oxide (20 mg). MS found: (M+H)+=216.1.

reactant | 5-Phenylnicotinic acid | 50 mg | C1(=CC=CC=C1)C=1C=NC=C(C(=O)O)C1 | C12H9NO2
reactant | mCPBA | 250 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
product | 5-phenylnicotinic acid N-oxide | 20 mg | C1(=CC=CC=C1)C=1C=[N+](C=C(C(=O)O)C1)[O-] | C12H9NO3
